US09326987B2
2-Methyl-N-[1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-1,3-thiazole-4-carboxamide
2-Methyl-1,3-thiazole-4-carbonyl chloride (350 mg) in DCM (4 ml) was added dropwise to 1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine (300 mg) in DCM (15 ml) and pyridine (0.167 ml). The reaction was stirred at RT overnight. Saturated sodium bicarbonate (aq) (25 ml) was added and the reaction vigorously stirred for 15 min. The DCM was passed through a hydrophobic frit then evaporated to dryness. The residue was dissolved in DCM and purified on a silica cartridge, preconditioned with cyclohexane, washing with cyclohexane followed by elution with ether. The ether was evaporated to give title compound, 373 mg.

reactant | 2-Methyl-1,3-thiazole-4-carbonyl chloride | 350 mg | CC=1SC=C(N1)C(=O)Cl | C5H4ClNOS
reactant | 1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine | 300 mg | C1(=CC=CC=C1)S(=O)(=O)N1N=CC=2C(=CC(=CC12)[Sn](C)(C)C)N
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.167 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methyl-N-[1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-1,3-thiazole-4-carboxamide | CC=1SC=C(N1)C(=O)NC1=C2C=NN(C2=CC(=C1)[Sn](C)(C)C)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C18H13N4O3S2.3CH3.Sn/c1-12-20-16(11-26-12)18(23)21-15-8-5-9-17-14(15)10-19-22(17)27(24,25)13-6-3-2-4-7-13;;;;/h2-4,6-11H,1H3,(H,21,23);3*1H3;
